US04016281
A mixture of 1 g. of 2-(4-phenyl-4-hydroxypiperidinomethyl)-6-hydroxy-1-tetralone and 10 ml. of propionic anhydride is kept at 20° for 24 hours and poured on ice. 2-(4-phenyl-4-hydroxypiperidinomethyl)-6-propionyloxy-1-tetralone is obtained, hydrochloride, m.p. 170°-172°.

reactant | 2-(4-phenyl-4-hydroxypiperidinomethyl)-6-hydroxy-1-tetralone | C1(=CC=CC=C1)C1(CCN(CC1)CC1C(C2=CC=C(C=C2CC1)O)=O)O | C22H25NO3
reactant | propionic anhydride | C(CC)(=O)OC(CC)=O | C6H10O3
product | 2-(4-phenyl-4-hydroxypiperidinomethyl)-6-propionyloxy-1-tetralone | C1(=CC=CC=C1)C1(CCN(CC1)CC1C(C2=CC=C(C=C2CC1)OC(CC)=O)=O)O | C25H29NO4
